US08669234B2
A mixture of 2-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-4-cyano-pyrrolidine-1-carboxylic acid tert-butyl ester (1.05 g, 2.4 mmol) and ammonia acetate (3.7 g, 20 eq.) in Xylene (2 mL) was heated in microwave at 110° C. for 2 hours. The mixture was concentrated and purified by flash column chromatography (silica gel, 20 to 80% ethyl acetate/hexane) to give 2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-cyano-pyrrolidine-1-carboxylic acid tert-butyl ester (356 mg, containing 15% starting material, yield 35%). LCMS-ESI−: calc'd for C19H21BrN4O2: 417.30. Found: 418.9 (M+H+).

reactant | 2-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-4-cyano-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.4 mmol, 1.05 g | C(C)(C)(C)OC(=O)N1C(CC(C1)C#N)C(NCC(=O)C1=CC=C(C=C1)Br)=O | C19H22BrN3O4
reactant | ammonia acetate | 3.7 g, 20 eq. | C(C)(=O)O.N
solvent | Xylene | 2 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-cyano-pyrrolidine-1-carboxylic acid tert-butyl ester | 356 mg, yield 35% | C(C)(C)(C)OC(=O)N1C(CC(C1)C#N)C=1NC(=CN1)C1=CC=C(C=C1)Br | C19H21BrN4O2
